US06103737
Preparation of 4-(2-(Trifluoromethyl)phenyl)-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine
A mixture of 4-chloro-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine (425 mg, prepared as described by Y. L. Chen in Patent Application WO94/13676), 2-(trifluoromethyl)phenylboronic acid (310 mg) tetrakis(triphenylphoshine)palladium(0) (50 mg), 1M aqueous sodium carbonate (2 mL), ethanol (0.75 mL) and benzene (6 mL) was refluxed for 6 hr. The cooled mixture was diluted with ethyl acetate and the aqueous layer was removed. The organic layer was washed with 1N aqueous sodium hydroxide, and brine, dried, and concentrated in vacuo. The crude reaction product was chromatographed on silica gel using ethyl acetate/hexanes (1:3) as eluent. The title compound was obtained as a glass (300 mg) that crystallized on trituration with ether to give crystals, mp 176.5-177.5°. Elemental Analysis: Calcd. for C22H24N3F3 : C, 70.91: H, 5.71; N, 9.92. Found: C, 70.69; H, 5.72; N, 9.84.

reactant | 4-chloro-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine | 425 mg | ClC=1C2=C(N=C(N1)C)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C | C18H20ClN3
reactant | 2-(trifluoromethyl)phenylboronic acid | 310 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 1M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 0.75 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 6 mL | C1=CC=CC=C1 | C6H6
product | 4-(2-(Trifluoromethyl)phenyl)-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine | FC(C1=C(C=CC=C1)C=1C2=C(N=C(N1)C)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C)(F)F | C25H24F3N3
